US04971963
Monosodium 3-[(3-amidinomethylthio-4-cyanoisothiazol-5-yl)thiomethyl]-7β -[2-(2-aminothiazol-4-yl)-(Z)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylate:
To a solution of sodium 7β-[2-(2-aminothiazol-4-yl) -(Z)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate (554 mg) and 3-amidinomethylthio-4-cyano-5-mercaptoisothiazole (345 mg) in 7 ml of DMF was added 1.2 g of ethyl o-phenylenephosphate under stirring at -20° C. After stirring under ice-cooling for 2 hours, the reaction mixture was subjected to a column chromatography on silica gel (150 g), being washed with acetonitrile and eluted with acetonitrile/water (6:1). The eluate was concentrated. The resultant precipitate was collected by filtration and dissolved in 40 ml of trifluoroacetic acid under ice-cooling. The mixture was stirred at room temperature for an hour and distilled to remove the solvent. The residue was dissolved in a mixture of water and THF and then adjusted to pH 6 with an aqueous sodium hydrogencarbonate solution. The solution was washed with ethyl acetate, concentrated under reduced pressure and subjected to a column chromatography on XAD-II (150 ml), being washed with water and eluted with 20% aqueous ethanol. The eluate was concentrated under reduced pressure and lyophilized to give 363 mg of the title compound as a pale yellow powder.

reactant | sodium 7β-[2-(2-aminothiazol-4-yl) -(Z)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 554 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)=N/OCC(=O)OC(C)(C)C.[Na+]
reactant | 3-amidinomethylthio-4-cyano-5-mercaptoisothiazole | 345 mg | C(N)(=N)CSC1=NSC(=C1C#N)S | C6H6N4S3
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | Monosodium 3-[(3-amidinomethylthio-4-cyanoisothiazol-5-yl)thiomethyl]-7β -[2-(2-aminothiazol-4-yl)-(Z)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylate | 363 mg | C(N)(=N)CSC1=NSC(=C1C#N)SCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OCC(=O)O)\C=2N=C(SC2)N)=O)=O.[Na+] | InChI=1S/C21H19N9O7S5.Na/c22-1-8-16(38-6-10(23)24)29-42-20(8)40-4-7-3-39-18-13(17(34)30(18)14(7)19(35)36)27-15(33)12(28-37-2-11(31)32)9-5-41-21(25)26-9;/h5,13,18H,2-4,6H2,(H3,23,24)(H2,25,26)(H,27,33)(H,31,32)(H,35,36);/q;+1/p-1/b28-12-;/t13-,18-;/m1./s1
